* fi_50p - neuronio axon-hillock, sky130, canto tt, 27 C
.lib spice/models/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.temp 27

Vdd1 vdd1 0 1.8
Vdd2 vdd2 0 1.8
Vddr vddr 0 1.8

* --- ramos de referencia do espelho (fora do orcamento por neuronio) ---
Iref1 rp1 0 DC 10n
XMref1 rp1 rp1 vddr vddr sky130_fd_pr__pfet_01v8 W=0.5 L=10
Iref2 rp2 0 DC 3u
XMref2 rp2 rp2 vddr vddr sky130_fd_pr__pfet_01v8 W=5   L=1

* --- neuronio: 7 transistores + 2 espelhos de saida ---
Iin 0 mem DC 50p
Cmem mem 0 100f
XMbp1 sp1 rp1 vdd1 vdd1 sky130_fd_pr__pfet_01v8 W=0.5 L=10
XM1p  n1  mem sp1  vdd1 sky130_fd_pr__pfet_01v8 W=2   L=0.5
XM1n  n1  mem 0    0    sky130_fd_pr__nfet_01v8 W=1   L=0.5
XMbp2 sp2 rp2 vdd2 vdd2 sky130_fd_pr__pfet_01v8 W=5   L=1
XM2p  out n1  sp2  vdd2 sky130_fd_pr__pfet_01v8 W=4   L=0.5
XM2n  out n1  0    0    sky130_fd_pr__nfet_01v8 W=2   L=0.5
Cfb out mem 20f
XMrst mem out 0 0 sky130_fd_pr__nfet_01v8 W=0.5 L=2
Cload out 0 5f

.options abstol=1e-15 vntol=1e-9 reltol=1e-4 gmin=1e-15 chgtol=1e-16
+ trtol=1
.nodeset v(rp1)=1.1 v(rp2)=1.05
.ic v(mem)=0 v(out)=0
.control
set filetype=ascii
tran 0.5u 25m 0 0.5u uic
wrdata resultados/2026-09-07_migracao_sky130/raw/fi_50p.txt v(mem) v(out) v(n1) v(sp1) v(sp2) v(rp1) v(rp2) i(vdd1) i(vdd2) i(vddr)
.endc
.end
